US08877968B2
To a solution containing 11.9 g (28.5 mmol) of (S)-2-Fmoc-amino-3-(4-methoxy-phenyl)propionic acid dissolved in 120 mL of dichloromethane and 10 mL of dimethylformamide are added 5.51 g (38.9 mmol) of EDC and 5.25 g (38.9 mmol) of HOBt. After stirring for 30 minutes at room temperature, a solution of 6.95 g (26.1 mmol) of 1-(4-phenylpiperidin-4-yl)-butan-1-one hydrochloride and 18 mL of triethylamine in 150 mL of dichloromethane is added. The reaction medium is stirred for 2 hours, and saturated aqueous sodium hydrogen carbonate solution is then added. The organic compounds are extracted with dichloromethane. The organic phase is dried over magnesium sulfate and then filtered, and the solvents are evaporated off. The crude product is chromatographed on silica gel (eluent: 9/1 dichloromethane/methanol). 4.7 g of 1-{1-[(S)-2-amino-3-(4-methoxyphenyl)-propionyl]-4-phenylpiperidin-4-yl}butan-1-one in the form of an orange oil are obtained in a yield of 44%.

reactant | (S)-2-Fmoc-amino-3-(4-methoxy-phenyl)propionic acid | 28.5 mmol, 11.9 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)[C@@](C(=O)O)(CC1=CC=C(C=C1)OC)N | C25H23NO5
reactant | EDC | 38.9 mmol, 5.51 g
reactant | HOBt | 38.9 mmol, 5.25 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-(4-phenylpiperidin-4-yl)-butan-1-one hydrochloride | 26.1 mmol, 6.95 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(CCC)=O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | triethylamine | 18 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-{1-[(S)-2-amino-3-(4-methoxyphenyl)-propionyl]-4-phenylpiperidin-4-yl}butan-1-one | 4.7 g, yield of 44% | N[C@H](C(=O)N1CCC(CC1)(C1=CC=CC=C1)C(CCC)=O)CC1=CC=C(C=C1)OC | C25H32N2O3
